US04954518
3.67 g of 6-(2,4-difluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one was suspended in 60 ml of acetic acid. Thereto was added 400 mg of 5% palladium-carbon. The mixture was subjected to hydrogenation at 40°-50° C. at atmospheric pressure. After the completion of the reaction, the catalyst was removed by filtration. The filtrate was concentrated. The resulting crystal was recrystallized from ethanol to obtain 3.16 g (yield: 85.6%) of 6-(2,4-difluorophenoxy)-2,3-dihydro-7-methylsulfonylamino-4H-1-benzopyran-4-one having a melting point of 163.5°-165° C.

reactant | 6-(2,4-difluorophenoxy)-7-methylsulfonylamino-4H-1-benzopyran-4-one | 3.67 g | FC1=C(OC=2C(=CC3=C(C(C=CO3)=O)C2)NS(=O)(=O)C)C=CC(=C1)F | C16H11F2NO5S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 400 mg | [C].[Pd]
product | 6-(2,4-difluorophenoxy)-2,3-dihydro-7-methylsulfonylamino-4H-1-benzopyran-4-one | 3.16 g, yield: 85.6% | FC1=C(OC=2C(=CC3=C(C(CCO3)=O)C2)NS(=O)(=O)C)C=CC(=C1)F | C16H13F2NO5S
